US06642244B2
4-Amino-6-chloro-2-(4-methoxyphenyl)methyl-2H-pyrazolo[3,4-b]pyridine-5-carboxylic acid pentafluorophenyl ester
To a cold (0° C.) solution of 4-amino-6-chloro-2-(4-methoxyphenyl)methyl-2H-pyrazolo[3,4-b]pyridine-5-carboxylic acid (952 mg, 2.86 mmol) and pentafluorophenol (830 mg) in DMF was added a solution of DCC (620 mg, 3 mmol) in EtOAc (9 mL). After work up the crude product was purified by flash column (silica gel, EtOAc/hexane, 1:1) to give the desired product (1.27 g) as a white solid. LC: 4.64 (Gradient 1), MH+: 499.

reactant | 4-amino-6-chloro-2-(4-methoxyphenyl)methyl-2H-pyrazolo[3,4-b]pyridine-5-carboxylic acid | 2.86 mmol, 952 mg | NC=1C=2C(N=C(C1C(=O)O)Cl)=NN(C2)CC2=CC=C(C=C2)OC | C15H13ClN4O3
reactant | pentafluorophenol | 830 mg | FC1=C(C(=C(C(=C1O)F)F)F)F | C6HF5O
reactant | DCC | 3 mmol, 620 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | DMF | CN(C)C=O | C3H7NO
solvent | EtOAc | 9 mL | CCOC(=O)C | C4H8O2
product | 4-Amino-6-chloro-2-(4-methoxyphenyl)methyl-2H-pyrazolo[3,4-b]pyridine-5-carboxylic acid pentafluorophenyl ester | 1.27 g | FC1=C(C(=C(C(=C1OC(=O)C1=C(C=2C(N=C1Cl)=NN(C2)CC2=CC=C(C=C2)OC)N)F)F)F)F | C21H12ClF5N4O3
